US06509328B1
4-(2,2-Dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-pyridine-2-carbonitrile
Prepared from 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester (Example H10) by stirring in TFA/acetone with TFAA according to general procedure J (method b). Obtained as a brown solid (3.30 g).

reactant | 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=NC=C1)C#N)=O | C13H14N2O3
reactant | TFAA | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | TFA acetone | C(=O)(C(F)(F)F)O.CC(=O)C
product | 4-(2,2-Dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-pyridine-2-carbonitrile | 3.30 g | CC1(OC(C=C(O1)C1=CC(=NC=C1)C#N)=O)C | C12H10N2O3
